US04075346
A mixture of 4.9 g of γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidino]-4-fluoro-2-nitrobutyrophenone hydrochloride, 1.0 g of 5 % palladium on charcoal (50 % wet reagent) and 80 g of methanol was vigorously stirred in hydrogen atmosphere at room temperature until the theoretical amount of hydrogen was consumed. The catalyst was filtered off and washed with hot methanol, and the filtrate was concentrated under reduced pressure. The residual solid was triturated with isopropanol, collected by filtration and washed with diisopropyl ether to afford 3.9 g of γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidino]-2-amino-4-fluorobutyrophenone monohydrochloride. M.P. 202°-204° C. The free base of this product was obtained by the conventional procedure. M.P. 106°-107° C (recrystallized from toluene).

reactant | γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidino]-4-fluoro-2-nitrobutyrophenone hydrochloride | 4.9 g | Cl.OC1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)[N+](=O)[O-])F)C1=CC(=CC=C1)C(F)(F)F
reactant | methanol | 80 g | CO | CH4O
catalyst | palladium on charcoal | 1.0 g | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
product | γ-[4-hydroxy-4-(3-trifluoromethylphenyl)piperidino]-2-amino-4-fluorobutyrophenone monohydrochloride | 3.9 g | Cl.OC1(CCN(CC1)C(CC(C(=O)C1=CC=CC=C1)N)F)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C22H24F4N2O2.ClH/c23-19(14-18(27)20(29)15-5-2-1-3-6-15)28-11-9-21(30,10-12-28)16-7-4-8-17(13-16)22(24,25)26;/h1-8,13,18-19,30H,9-12,14,27H2;1H
